US05082967
6,12-Dithiatetradecanoic acid
Sodium hydroxide (1 M, 6.2 mL, 6.2 mmol) was added to a solution of ethyl 6,12-dithiatetradecanoate (0.9 g, 3.1 mmol) in MeOH (15 mL). After stirring for 4 hours, water (20 mL) was added and the reaction mixture was acidified (pH 1, HCl) extracted with EtOAc (2×100 mL), and the organic phase was washed with water (20 mL), brine (20 mL), and then dried (Na2SO4). The product crystallized from n-hexane to yield the title compound as a white solid (0.77 g, 95%, mp 49.5° C.-50.0° C.). IR: 3000, 1720 cm-1 ; 1H NMR, 1.23 (t, 3H), 1.49 (quintet, 2H), 1.56-1.68 (m, 6H), 1.74 (quintet, 2H), 2.38 (t, 2H), 2.51 (t, 2H), 2.53 (t, 4H), 2.54 (q, 2H), and 10.45 (b, IH). Anal. Calcd for C12H24S2O2 : C, 54.50; H, 9.15%. Found: C, 54.59; H, 9.21%.

reactant | Sodium hydroxide | 6.2 mmol, 1 M, 6.2 mL | [OH-].[Na+]
reactant | ethyl 6,12-dithiatetradecanoate | 3.1 mmol, 0.9 g | C(CCCCSCCCCCSCC)(=O)OCC | C14H28O2S2
reactant | water | 20 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | MeOH | 15 mL | CO | CH4O
product | 6,12-Dithiatetradecanoic acid | 0.77 g, 95% | C(CCCCSCCCCCSCC)(=O)O | C12H24O2S2
